US06765009B2
The crude nitronaphthyl-pyrimidinyl ether from above (459 mg, 1.42 mmol, 1 equiv.) was taken up in 35 mL EtOAc and 35 mL EtOH. Ammonium formate was added (537 mg, 8.52 mmol, 6 equiv.) as well as 400 mg of 10% palladium-on-carbon. The reaction mixture was heated to a gentle reflux for one h, cooled back to room temperature, filtered through diatomaceous earth and the volatiles were removed in vacuo. The crude product was purified by chromatography on SiO2, eluting with 20-40% EtOAc in hexanes. The desired aminonaphthyl-pyrimidyl ether was isolated as a yellow foam (176 mg, 0.6 mmol, 42% for 2 steps).

reactant | nitronaphthyl-pyrimidinyl ether | [N+](=O)([O-])C=1C(=NC(=NC1)OC1=NC=C(C(=N1)C1=CC=CC2=CC=CC=C12)[N+](=O)[O-])C1=CC=CC2=CC=CC=C12 | C28H16N6O5
reactant | Ammonium formate | C(=O)[O-].[NH4+]
solvent | EtOAc | 35 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 35 mL | CCO | C2H6O
catalyst | palladium-on-carbon | 400 mg | [Pd] | Pd
product | aminonaphthyl-pyrimidyl ether | NC=1C(=NC(=NC1)OC1=NC=C(C(=N1)C1=CC=CC2=CC=CC=C12)N)C1=CC=CC2=CC=CC=C12 | C28H20N6O
